US08754079B2
XXXI.1 2-(4,4-Dimethyl-cyclohexyloxy)-4-fluoro-1-nitro-benzene
Prepared analogously to III.1 from 2 ml 2,4-difluoro-nitrobenzene and 2.339 g 4,4-dimethyl-cyclohexanol.

reactant | 2,4-difluoro-nitrobenzene | 2 ml | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 4,4-dimethyl-cyclohexanol | 2.339 g | CC1(CCC(CC1)O)C | C8H16O
product | 2-(4,4-Dimethyl-cyclohexyloxy)-4-fluoro-1-nitro-benzene | CC1(CCC(CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])C | C14H18FNO3
